US06921763B2
A mixture of N1-{4-[4-amino-1-(4-formylphenyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-2-fluoro-4-(trifluoromethyl)benzamide (0.075 g, 0.14 mmol), 4-piperidineethanol (0.035 g, 0.27 mmol), sodium triacetoxyborohydride (0.087 g, 0.41 mmol), and dichloroethane (1.4 mL) was shaken at room temperature for 16 h. Additional portions of 4-piperidineethanol (0.040 g, 0.31 mmol)) and sodium triacetoxyborohydride (0.053 g, 0.25 mmol) were added and the reaction mixture was shaken for 4 days. 1N NaOH (1 mL) was added and the precipitate was collected by filtration and purified by preparative RP-HPLC (Rainin C18, 8 μm, 300 Å, 25 cm; 10-60% acetonitrile-0.05 M ammonium acetate over 25 min, 21 mL/min); the fraction eluting from 21.1-23.5 min was collected, concentrated, and lyopholized to afford N1-{4-[4-amino-1-(4-{[4-(2-hydroxyethyl)piperidino]methyl}phenyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-2-fluoro-4-(trifluoromethyl)benzamide diacetate as a white solid. (0.015 g, 0.023 mmol): 1H NMR (d6-DMSO, 400 MHz): δH 9.94 (1H, s), 8.18-8.39 (2H, m), 8.14 (2H, d, J=8.4 Hz), 7.99-8.02 (1H, m), 7.90 (1H, d, J=10.4 Hz), 7.75 (1H, d, J=7.6 Hz), 7.39-7.48 (4H, m), 4.31-3.96 (3H, s), 3.37 (2H, s), 3.37-3.50 (3H, m), 2.80-2.83 (2H, m), 1.91 (6H, m), 1.61-1.64 (2H, m), 1.35-1.37 (3H, m), and 1.15-1.18 (2H, m); RP-HPLC (Hypersil C18, 5 μm, 100 Å, 15 cm; 5%-100% acetonitrile-0.1 M ammonium acetate over 15 min, 1 mL/min). Rt 10.71 min. MS: MH+ 664.2.

reactant | N1-{4-[4-amino-1-(4-formylphenyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-2-fluoro-4-(trifluoromethyl)benzamide | 0.14 mmol, 0.075 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(C2=C(C=C(C=C2)C(F)(F)F)F)=O)OC)C2=CC=C(C=C2)C=O | C27H18F4N6O3
reactant | 4-piperidineethanol | 0.27 mmol, 0.035 g | N1CCC(CC1)CCO | C7H15NO
reactant | sodium triacetoxyborohydride | 0.41 mmol, 0.087 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloroethane | 1.4 mL | ClC(C)Cl | C2H4Cl2
reactant | 4-piperidineethanol | 0.31 mmol, 0.040 g | N1CCC(CC1)CCO | C7H15NO
reactant | sodium triacetoxyborohydride | 0.25 mmol, 0.053 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
product | N1-{4-[4-amino-1-(4-{[4-(2-hydroxyethyl)piperidino]methyl}phenyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-2-fluoro-4-(trifluoromethyl)benzamide diacetate | C(C)(=O)O.C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(C2=C(C=C(C=C2)C(F)(F)F)F)=O)OC)C2=CC=C(C=C2)CN2CCC(CC2)CCO | InChI=1S/C34H33F4N7O3.2C2H4O2/c1-48-28-16-22(4-9-27(28)42-33(47)25-8-5-23(17-26(25)35)34(36,37)38)30-29-31(39)40-19-41-32(29)45(43-30)24-6-2-21(3-7-24)18-44-13-10-20(11-14-44)12-15-46;2*1-2(3)4/h2-9,16-17,19-20,46H,10-15,18H2,1H3,(H,42,47)(H2,39,40,41);2*1H3,(H,3,4)
